US04359332
To a solution of ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (3.3 g, 0.01 mole) in 25 ml of tetrahydrofuran was added diallylamine (4.07 g, 0.042 mole) in 50 ml. of tetrahydrofuran. The mixture was stirred at room temperature overnight and was then filtered and the filtrate concentrated in vacuo. The residue was dissolved in ether, washed with water, 10% HCl, water, dried over MgSO4, and concentrated in vacuo. The residue was extracted with petroleum ether, and by concentrating the petroleum ether soluble material, ethyl N-trifluoroacetyl-N-(bis(diallylamino)phosphonomethyl)glycinate was obtained as a light yellow oil, ND =1.4536.

reactant | ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.01 mole, 3.3 g | FC(C(=O)N(CC(=O)OCC)CP(=O)(OCl)OCl)(F)F | C7H9Cl2F3NO6P
reactant | diallylamine | 0.042 mole, 4.07 g | C(C=C)NCC=C | C6H11N
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | ethyl N-trifluoroacetyl-N-(bis(diallylamino)phosphonomethyl)glycinate | FC(C(=O)N(CC(=O)OCC)CP(=O)(ON(CC=C)CC=C)ON(CC=C)CC=C)(F)F | C19H29F3N3O6P
